US06352982B1
A tetrahydrofuran (30 ml) solution of N-methyl-N-methyloxy-2-amino-5-chlorobenzamide (3.22 g) and N-trityl-3-bromobenzylamine (4.28 g) was cooled to −78° C. To the solution was gradually added dropwise a hexane solution of n-butyl lithium (1.6 mol/L) (31 ml). To the mixture were then added water (70 ml) and acetic acid ethyl ester (100 ml). The organic layer was washed with water and dried over anhydrous MgSO4. The solvent was distilled off, and the residual yellow oily compound was purified by a silica gel column chromatography to give 2-amino-3′-tritylaminomethyl-5-chlorobenzophenone (2.2 g) as a yellow oily product.

reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
reactant | N-methyl-N-methyloxy-2-amino-5-chlorobenzamide | 3.22 g | CN(C(C1=C(C=CC(=C1)Cl)N)=O)OC | C9H11ClN2O2
reactant | N-trityl-3-bromobenzylamine | 4.28 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NCC1=CC(=CC=C1)Br | C26H22BrN
reactant | n-butyl lithium | 1.6 mol/L, 31 ml | C(CCC)[Li]
solvent | acetic acid ethyl ester | 100 ml | C(C)OC(C)=O | C4H8O2
solvent | water | 70 ml | O | H2O
solvent | hexane | CCCCCC | C6H14
product | 2-amino-3′-tritylaminomethyl-5-chlorobenzophenone | 2.2 g | NC1=C(C(=O)C2=CC(=CC=C2)CNC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C(C=C1)Cl | C33H27ClN2O
